US07939519B2
3-{4-[1-(2-Trifluoromethyl-biphenyl-4-ylmethoxyimino)-ethyl]-benzylamino}-propionic acid
To a suspension of MnO2 (10 eq) in dioxane is added 1-(4-hydroxymethyl-phenyl)-ethanone O-(2-trifluoromethyl-biphenyl-4-ylmethyl)-oxime (1 eq). The resulting mixture is refluxed for 10 minutes. After filtration and concentration, the residue is dissolved in MeOH and treated with β-alanine (2 eq) and Et3N (1.5 eq). The resulting mixture is heated at 50° C. for 30 minutes. After cooling to room temperature, NaBH4 (3 eq) is added in portions. Purification by preparative LCMS results in 3-{4-[1-(2-trifluoromethyl-biphenyl-4-ylmethoxyimino)-ethyl]-benzylamino}-propionic acid; 1H NMR (400 MHz, CD3OD) δ 2.28 (s, 3H), 2.75 (t, J=6.8 Hz, 2H), 3.26 (t, J=6.8 Hz, 2H), 4.22 (s, 2H), 5.30 (s, 2H), 7.26-7.77 (m, 12H). MS: (ES+): 471.1 (M+1)+.

reactant | 1-(4-hydroxymethyl-phenyl)-ethanone O-(2-trifluoromethyl-biphenyl-4-ylmethyl)-oxime | 1 eq | FC(C1=C(C=CC(=C1)CON=C(C)C1=CC=C(C=C1)CO)C1=CC=CC=C1)(F)F | C23H20F3NO2
reactant | β-alanine | 2 eq | NCCC(=O)O | C3H7NO2
reactant | Et3N | 1.5 eq | CCN(CC)CC | C6H15N
reactant | NaBH4 | 3 eq | [BH4-].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | MnO2 | 10 eq | O=[Mn]=O
product | 3-{4-[1-(2-Trifluoromethyl-biphenyl-4-ylmethoxyimino)-ethyl]-benzylamino}-propionic acid | FC(C1=C(C=CC(=C1)CON=C(C)C1=CC=C(CNCCC(=O)O)C=C1)C1=CC=CC=C1)(F)F | C26H25F3N2O3
